US07078405B2
1-(8-Chloro-2-ethylimidazo[1,2-a]pyrazin-3-yl)-1-butanone (226 mg, 0.90 mmol) and 4,6-dimethyl-2-methoxybenzeneboronic acid (198 mg, 1.1 mmol) were dissolved in a mixed solvent of 1,2-dimethoxyethane (4.5 mL) and water (0.75 mL). Barium hydroxide octahydrate (347 mg, 1.1 mmol) and tetrakis(triphenylphosphine)palladium complex (79 mg, 0.068 mmol) were added thereto, and the mixture was heated under reflux for 4 hours under nitrogen atmosphere. After being allowed to cool, the reaction mixture was filtered and washed with ethyl acetate. Then, the filtrates were combined and washed with a 1N aqueous sodium hydroxide solution. It was extracted with ethyl acetate and evaporated. The resulting residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=1:3) to give 1-[2-ethyl-8-(2-methoxy-4,6-dimethylphenyl)imidazo[1,2-a]pyrazin-3-yl]-1-butanone (245 mg) as a white amorphous.

reactant | 1-(8-Chloro-2-ethylimidazo[1,2-a]pyrazin-3-yl)-1-butanone | 0.90 mmol, 226 mg | ClC=1C=2N(C=CN1)C(=C(N2)CC)C(CCC)=O | C12H14ClN3O
reactant | 4,6-dimethyl-2-methoxybenzeneboronic acid | 1.1 mmol, 198 mg | CC1=CC(=C(C(=C1)C)B(O)O)OC | C9H13BO3
reactant | Barium hydroxide octahydrate | 1.1 mmol, 347 mg | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
solvent | 1,2-dimethoxyethane | 4.5 mL | COCCOC | C4H10O2
solvent | water | 0.75 mL | O | H2O
product | 1-[2-ethyl-8-(2-methoxy-4,6-dimethylphenyl)imidazo[1,2-a]pyrazin-3-yl]-1-butanone | 245 mg | C(C)C=1N=C2N(C=CN=C2C2=C(C=C(C=C2C)C)OC)C1C(CCC)=O | C21H25N3O2
